US05660985
To a solution of 2'-azido,2'-deoxyuridine (2.5 g, 9.3 mmoles) in methanol (20 ml) is added ICl (3.3 g, 20.5 mmoles, 2.2 eq.). The mixture is heated at 50° C. for 30 min. After cooling to room temperature, an equal volume of ether is added and the white precipitate is filtered off. The precipitate is stirred in methanolic ammonia (20 ml) at room temperature for 15 min, and then evaporated to dryness to yield 2.81 g (76%) of 5-iodo,2'-azido,2'-deoxyuridine. 1H NMR (300 MHz, methanol -d4) δ 8.58 (s, 1H, H6), 5.88 (d, 1H, H1', JH1'H2' =3.5 Hz), 4.46 (t, 1H, H3', J=5.8 Hz), 4.11 (dd, 1H, H2', JH1',H2' =3.9 Hz, J H2',H3' =5.3 Hz), 4.01 (m, 1H, H4'), 3.91 (dd, 1H, H5'AJgem =12.3 Hz, JH5',H4' =2.4 Hz) 3.76 (dd, 1H, H5'B, Jgem =12.3 Hz, JH5',H4' =2.4 Hz). 13C NMR (75 MHz, methanol-d4) δ 163.03, 152.17, 146.50, 88.88, 86.18, 71.21, 67/67, 61.00, 48.15. FAB mass spectrum, (M+H) m/z 396.

reactant | 2'-azido,2'-deoxyuridine | 9.3 mmoles, 2.5 g | N(=[N+]=[N-])[C@H]1[C@@H](O[C@@H]([C@H]1O)CO)N1C(=O)NC(=O)C=C1 | C9H11N5O5
reactant | ICl | 20.5 mmoles, 3.3 g, 2.2 eq. | ICl | ClI
reactant | ether | CCOCC | C4H10O
solvent | methanol | 20 ml | CO | CH4O
product | 5-iodo,2'-azido,2'-deoxyuridine | 2.81 g, 76% | IC=1C(NC(N([C@H]2[C@@H]([C@H](O)[C@@H](CO)O2)N=[N+]=[N-])C1)=O)=O | C9H10IN5O5
